US04278683
5.4 g of 2-aminomethyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine are dissolved in 50 ml of a methanol/water mixture (1:1), and 3.92 ml of triethylamine and, at -5° C., 5.44 g of 4-nitrobenzoyl chloride are added. The mixture is stirred for 24 hours and evaporated in vacuo, the residue is taken up in ether/water and the phases are separated. The aqueous phase is extracted once with ether and the product phase is then evaporated. The residue is dissolved in a little water and the solution is discharged onto a column 120 cm long and 4 cm wide which contains cellulose as the stationary phase and 99% pure acetone as the mobile phase. The column is eluted successively with 99% pure acetone, 95% pure acetone and finally 90% pure acetone. The individual fractions are examined by thin layer chromatography to determine their content of the required compound. The fractions containing the desired product are collected and evaporated. 2.6 g of 2-(4-nitrobenzoylaminomethyl)-2-hydroxymethyl-3,4,5 -trihydroxypiperidine are obtained.

reactant | 2-aminomethyl-2-hydroxymethyl-3,4,5-trihydroxypiperidine | 5.4 g | NCC1(NCC(C(C1O)O)O)CO | C7H16N2O4
reactant | triethylamine | 3.92 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 5.44 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | methanol water | 50 ml | CO.O
product | 2-(4-nitrobenzoylaminomethyl)-2-hydroxymethyl-3,4,5 -trihydroxypiperidine | 2.6 g | [N+](=O)([O-])C1=CC=C(C(=O)NCC2(NCC(C(C2O)O)O)CO)C=C1 | C14H19N3O7
